US08476267B2
5,7-Dimethyl-2-phenylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
8.34 g (32.3 mmol) of N-[1-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazin-6-yl)ethyl]acetamide] (Example 14A) were dissolved in 330 ml of 1,2-dichloroethane and 4.5 ml (48.5 mmol) of phosphoryl chloride were added. The mixture was stirred under reflux for 24 h. After cooling, the precipitate was filtered off and washed with water and diethyl ether. The product was subsequently dried under high vacuum. This gave 4.6 g (59% of theory) of the product as a solid.

reactant | N-[1-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazin-6-yl)ethyl]acetamide | 32.3 mmol, 8.34 g | O=C1NC(=NN=C1C(C)NC(C)=O)C1=CC=CC=C1 | C13H14N4O2
reactant | phosphoryl chloride | 48.5 mmol, 4.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 330 ml | ClCCCl | C2H4Cl2
product | 5,7-Dimethyl-2-phenylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | CC=1N=C(N2N=C(NC(C21)=O)C2=CC=CC=C2)C | C13H12N4O
